US04792556
Diazabicycloundecane (DBU,, 3.7 ml) is added to a solution of 2,3-dimethoxy-1-hydroxy-4-(2,2-dimethylpropanoyloxy)naphthalene (6.1 g) and benzyl bromide (2.6 ml). After heating at 60° C. for 2 hours, the reaction is cooled, and the resulting DBU hydrobromide is filtered off. The filtrate is evaporated, and then is dissolved in ethyl acetate. The organic layer is washed with 1M HCl and brine, then dried, filtered and evaporated to yield 2,3-dimethoxy-1-benzyloxy-4-(2,2-dimethylpropanoyloxy)naphthalene (7.3 g) as a syrup after chromatography over silica gel.

reactant | Diazabicycloundecane | 3.7 ml | N1(NCCCCCCCCC1)C1CCCCCCCCCC1 | C20H40N2
reactant | 2,3-dimethoxy-1-hydroxy-4-(2,2-dimethylpropanoyloxy)naphthalene | 6.1 g | COC1=C(C2=CC=CC=C2C(=C1OC)OC(C(C)(C)C)=O)O | C17H20O5
reactant | benzyl bromide | 2.6 ml | C(C1=CC=CC=C1)Br | C7H7Br
product | 2,3-dimethoxy-1-benzyloxy-4-(2,2-dimethylpropanoyloxy)naphthalene | 7.3 g | COC1=C(C2=CC=CC=C2C(=C1OC)OC(C(C)(C)C)=O)OCC1=CC=CC=C1 | C24H26O5
